US04245097
A mixture of 7.6 g. ethyl 4-(6-methanesulfonyloxyhexadecylamino)benzoate and 5.5 g. of potassium thioacetate in 200 ml. of acetone is stirred under reflux for 3 hours and evaporated. The residue is partitioned between methylene chloride and water and the organic layer is separated, dried and evaporated. Recrystallization of the residual solid from hexane affords the product as a light, tan solid. Hydrolysis of the product by the method of Example 10 affords 4-(6-mercaptohexadecylamino)benzoic acid.

reactant | ethyl 4-(6-methanesulfonyloxyhexadecylamino)benzoate | CS(=O)(=O)OC(CCCCCNC1=CC=C(C(=O)OCC)C=C1)CCCCCCCCCC | C26H45NO5S
reactant | potassium thioacetate | C(C)(=S)[O-].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | 4-(6-mercaptohexadecylamino)benzoic acid | SC(CCCCCNC1=CC=C(C(=O)O)C=C1)CCCCCCCCCC | C23H39NO2S
